US07648997B2
A solution of sodium dithionate (27.5 g, 158 mmol) in water (60 mL) was added to a solution of 3-[(7-bromo-3-nitroquinolin-4-yl)amino]propan-1-ol (10.3 g, 31.6 mmol) in ethanol (175 mL), and the mixture was stirred vigorously for four hours at ambient temperature. The solvent was removed under reduced pressure, and the residue was partitioned between dichloromethane/chloroform/methanol (500 mL) and saturated aqueous sodium bicarbonate (200 mL). The aqueous layer was separated and extracted with chloroform (5×200 mL), and the combined organic fractions were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 7.27 g of 3-[(3-amino-7-bromoquinolin-4-yl)amino]propan-1-ol.

reactant | sodium dithionate | 158 mmol, 27.5 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | 3-[(7-bromo-3-nitroquinolin-4-yl)amino]propan-1-ol | 31.6 mmol, 10.3 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCO | C12H12BrN3O3
solvent | water | 60 mL | O | H2O
solvent | ethanol | 175 mL | C(C)O | C2H6O
product | 3-[(3-amino-7-bromoquinolin-4-yl)amino]propan-1-ol | 7.27 g | NC=1C=NC2=CC(=CC=C2C1NCCCO)Br | C12H14BrN3O
